US06713455B2
Step A: 3-(3-Pyridinyl)-2-propynol
A solution of 3-bromopyridine (2.0 g, 12.6 mmol), propargyl alcohol (1.1 mL, 19 mmol), diisopropylethylamine (3.2 mL, 23 mmol), copper iodide (133 mg, 0.7 mmol) and tri-(t-butyl)phosphine (286 mg, 1.4 mmol) in degassed THF (10 mL) was treated with Pd(CH3CN)2Cl2 (181 mg, 0.7 mmol) at 25° C. under N2. After 18 h, the reaction mixture was filtered through celite, washed with ethyl acetate (2×100 mL), and concentrated in vacuo. Purification by flash chromatography (EtOAc) afforded the title compound (1.33 g, 80%) as a yellow oil. MS 134 (M+H)+.

reactant | 3-bromopyridine | 12.6 mmol, 2.0 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | propargyl alcohol | 19 mmol, 1.1 mL | C(C#C)O | C3H4O
reactant | diisopropylethylamine | 23 mmol, 3.2 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | tri-(t-butyl)phosphine | 1.4 mmol, 286 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | copper iodide | 0.7 mmol, 133 mg | [Cu](I)I
product | 3-(3-Pyridinyl)-2-propynol | 1.33 g, 80% | N1=CC(=CC=C1)C#CCO | C8H7NO
